US05100874
HCl·D-Ala-OMe (5.58 g; 40.0 mmol) was dissolved in DMF (100 ml) and TEA (5.6 ml; 40.0 mmol) was added dropwise under ice cooling. After HOSu (2.30 g; 20.0 mmol) and Z-D-Leu-OH (9.29 g; 35.0 mmol) were added, the mixture was cooled with a coolant at -20° C. and DCC (9.28 g; 45.0 mmol) dissolved in CH2CL2 (50 ml) was added dropwise. The reaction was carried out for 1 hour at -10° C. and overnight in a refrigerator. Insolubles were filtered off and the solvent was distilled off under reduced pressure. The residue was dissolved in AcOEt and the solution was washed successively with water, 1N-HCl, water, 10% Na2CO3 and water and dried over anhydrous MgSO4. The solvent was distilled off under reduced pressure and the residue was solidified from an Et2O-n-hexane mixed solvent to give Z-D-Leu-D-Ala-OMe (11.5 g; 94%) as a colorless powder. m.p. 94°-95° C., specific rotation [α]D28 +35.9 (c=1.0, EtOH).

reactant | HOSu | 20.0 mmol, 2.30 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | Z-D-Leu-OH | 35.0 mmol, 9.29 g | N([C@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | DCC | 45.0 mmol, 9.28 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Z-D-Leu-D-Ala-OMe | 11.5 g, 94% | N([C@H](CC(C)C)C(=O)N[C@H](C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C18H26N2O5
